US04415584
(5R)-3-Vinyl-7-oxo-4-oxa-1-azabicyclo[3.2.0]hept-2-ene (4 mmole);
prepared from 1.01 g clavulanic acid according to Example 1) was dissolved in dry 1,2-dimeth xyethane (10 ml) containing hydroquinolinone (50 mg). p-Nitrobenzyl acrylate (1.8 g) was added to the solution which was then heated at 85° (bath temperature) with exclusion of moisture for 2.5 hours. The mixture was cooled, diluted with ethyl acetate (50 ml), and filtered. The solvent was evaporated from the filtrate under reduced pressure to give a yellow oil which was chromatographed on silica gel (15 g) using gradient elution from 1:7 to 1:3 ethyl acetate/petroleum ether (b.p. 60°-80°). In this way the title compound (Mixture of isomers) was obtained as a yellow gum (150 mg).

reactant | clavulanic acid | 1.01 g | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)O | C8H9NO5
reactant | p-Nitrobenzyl acrylate | 1.8 g | C(C=C)(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C10H9NO4
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (5R)-3-Vinyl-7-oxo-4-oxa-1-azabicyclo[3.2.0]hept-2-ene | C(=C)C1=CN2C(C[C@H]2O1)=O | C7H7NO2
